US06498159B1
105.5 g of (5S)-5-(hydroxymethyl)tetrahydro-2-furanone was dissolved in 1.2 L pyridine, and 380 g of trityl chloride was added thereto at room temperature, and the mixture was stirred at 80° C. overnight. After the reaction was completed, the mixture was cooled, water was added thereto, extracted with ethyl acetate, and then washed with brine. The solvent was removed, and the resulting residue was dissolved in 300 ml chloroform, and after 600 ml silica gel was added thereto, the solvent was removed. The resulting residue was purified by silica gel column chromatography to give 149.3 g of (5S)-5-[(trityloxy)methyl]tetrahydro-2-furanone.

reactant | (5S)-5-(hydroxymethyl)tetrahydro-2-furanone | 105.5 g | OC[C@@H]1CCC(O1)=O | C5H8O3
reactant | trityl chloride | 380 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | pyridine | 1.2 L | N1=CC=CC=C1 | C5H5N
product | (5S)-5-[(trityloxy)methyl]tetrahydro-2-furanone | 149.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1CCC(O1)=O | C24H22O3
